US09210929B2
Step 7: Methyl 3-(hydroxymethylene)-2-oxo-1,3a,4,8b-tetrahydroindeno[1,2-b]pyrrole-7-carboxylate C3
To a solution of tert-butyl 7-methyl 3-(dimethylaminomethylene)-2-oxo-4,8b-dihydro-3aH-indeno[1,2-b]pyrrole-1,7-dicarboxylate (610 mg, 1.6 mmol) in dioxane (20 mL) was added HCl (36%, 2.9 mL, 32 mmol). The solution was stirred overnight at room temperature. The solution was diluted with ethyl acetate and washed twice with water, brine, dried over magnesium sulphate and concentrated to give title compound (0.300 g, 73%). This compound was used without extra purification. LC/MS (method B) RT: 0.65 min; ES−: 258, M−H+.

reactant | tert-butyl 7-methyl 3-(dimethylaminomethylene)-2-oxo-4,8b-dihydro-3aH-indeno[1,2-b]pyrrole-1,7-dicarboxylate | 1.6 mmol, 610 mg | CN(C)C=C1C2C(N(C1=O)C(=O)OC(C)(C)C)C1=CC(=CC=C1C2)C(=O)OC | C21H26N2O5
reactant | HCl | 32 mmol, 2.9 mL | Cl | ClH
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 3-(hydroxymethylene)-2-oxo-1,3a,4,8b-tetrahydroindeno[1,2-b]pyrrole-7-carboxylate | 0.300 g, 73% | OC=C1C2C(NC1=O)C1=CC(=CC=C1C2)C(=O)OC | C14H13NO4
